US08470786B2
To a solution of 6-benzyloxyindole-acetic acid (4.72 g, 16.7 mmol) in tetrahydrofuran (100 mL), was added carbonyl diimidazole (2.85 g, 17.6 mmol). The resulting solution was stirred at room temperature for 1.5 hr. Ammonium hydroxide (14 mL) was added and the reaction was allowed to stir at room temperature for 18 h. The mixture was concentrated to ½ volume and the resulting solid filtered and washed with cold methanol to give 2-[6-(benzyloxy)-1H-indol-3-yl]acetamide (4.7 g, quantitative) as a off-white solid. Mp: 189-192° C.; 1H NMR (DMSO-d6) 400 MHz δ: 10.65 (brs, 1H), 7.46 (d, J=7.4 Hz, 2H), 7.37-7.35 (m, 2H), 7.31 (m, 1H), 7.26 (brs, 1H), 7.14 (d, J=2.3 Hz, 1H), 7.12 (d, J=2.3 Hz, 1H), 6.79 (m, 2H), 5.04 (s, 2H), 3.39 (s, 2H); LCMS [M+H]: 281.

reactant | 6-benzyloxyindole-acetic acid | 16.7 mmol, 4.72 g | C(C1=CC=CC=C1)OC1=CC=C2C=C(NC2=C1)CC(=O)O | C17H15NO3
reactant | carbonyl diimidazole | 17.6 mmol, 2.85 g | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | Ammonium hydroxide | 14 mL | [OH-].[NH4+]
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 2-[6-(benzyloxy)-1H-indol-3-yl]acetamide | 4.7 g | C(C1=CC=CC=C1)OC1=CC=C2C(=CNC2=C1)CC(=O)N | C17H16N2O2
